US06117886
Synthesis of 2-(2-quinazolylmethoxy)benzyl alcohol
To a solution of 2-Chloromethylquinazoline (5.00 g, 28 mmol) in DMF (50 ml) were added potassium carbonate (4.26 g, 31 mmol) and tetra-n-butylammoniumbromide (903 mg, 2.8 mmol). 3-Hydroxybenzylalcohol (3.48 g, 28 mmol) was added to the resultant mixture, and the mixture was stirred at room temperature for five days. Subsequently, the reaction mixture was concentrated under reduced pressure. Chloroform and water were added to the resultant mixture, and the organic phase was extracted from the mixture. The organic phase was dried over sodium sulfate anhydrate, concentrated under reduced pressure, and recrystallized from a chloroform-n-hexane mixture, to thereby obtain the title compound as pale yellow powder (6.94 g, yield: 93.1%).

reactant | 2-Chloromethylquinazoline | 28 mmol, 5.00 g | ClCC1=NC2=CC=CC=C2C=N1 | C9H7ClN2
reactant | potassium carbonate | 31 mmol, 4.26 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-Hydroxybenzylalcohol | 28 mmol, 3.48 g | OC=1C=C(CO)C=CC1 | C7H8O2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
catalyst | tetra-n-butylammoniumbromide | 2.8 mmol, 903 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-(2-quinazolylmethoxy)benzyl alcohol | 6.94 g, yield: 93.1% | N1=C(N=CC2=CC=CC=C12)COC1=C(CO)C=CC=C1 | C16H14N2O2
